US05750531
Step 1: 2-mercapto-6-ethylpyrimidine-4-one
To a solution of sodium methoxide(24 g, 0.44 mol) and ethanol(180 ml) were added thiourea(15.22 g, 0.2 mol) and methyl propionylacetate(25.1 ml, 0.2 mol). After distillating solvent slowly, water(200 ml) was added to the reaction mixture, which was then heated to reflux for 30 minutes. Active carbon was added to the reaction mixture, which was then stirred for 5 minutes and filtered. The filtrate was cooled to a room temperature and acidified by glacial acetic acid and the resulting solid was filtered and dried to give 29 g of the titled compound. (Yield: 93%)

reactant | sodium methoxide | 0.44 mol, 24 g | C[O-].[Na+]
reactant | ethanol | 180 ml | C(C)O | C2H6O
reactant | thiourea | 0.2 mol, 15.22 g | NC(=S)N | CH4N2S
reactant | methyl propionylacetate | 0.2 mol, 25.1 ml | C(CC)(=O)CC(=O)OC | C6H10O3
solvent | water | 200 ml | O | H2O
product | 2-mercapto-6-ethylpyrimidine-4-one | 29 g, Yield: 93% | SC1=NC(=CC(N1)=O)CC | C6H8N2OS
